US04293481
(C) (S,S)-1-[N-(3-Amino-2-hydroxy-1-oxo-4-phenyl-butyl)-L-alanyl]-L-proline
Crude (S,S)-1-[N-[3-[(benzyloxycarbonyl)amino]-2-hydroxy-1-oxo-4-phenylbutyl]-L-alanyl]-L-proline (about 2 mmol) is dissolved in 50 ml of methanol and 25 ml of water. After sweeping the system with argon 0.5 g of 10% palladium on charcoal is added. While stirring, a slow stream of hydrogen is passed over the surface for eighteen hours. The catalyst is removed by filtration through diatomaceous earth and the pad is washed with methanol. The filtrate is taken to dryness in vacuo and methanol is added four times and removed in vacuo leaving 0.65 g of a glass. This material is combined with that from another run. Most of this material is dissolved in 5 ml water and is applied to a column packed with 12 ml AG50WX2 (H+) resin. The column is eluted with water until the eluate is no longer strongly acidic and then is eluted with pH 6.5 buffer. Fractions positive to ninhydrin are pooled. It appears that some of the product has precipitated on the column so when fractions give only a very weak test with ninhydrin the remaining product is eluted with 2 N NH4OH. The two pools are worked up separately by taking to dryness in vacuo and adding water and again taking to dryness. Electrophoresis on the two materials are identical; -5.3 cm (pH 1.9 buffer, 2000 V, 30 min., detected ninhydrin and I2). The two pools are combined, triturated with water, the solid harvested by filtration, washed with more water and then with methanol. Drying in vacuo over P2O5 at 75° C. gives the analytical sample (412 mg), [α]D =-120° (c=0.64, acetic acid).

reactant | (S,S)-1-[N-[3-[(benzyloxycarbonyl)amino]-2-hydroxy-1-oxo-4-phenylbutyl]-L-alanyl]-L-proline | about 2 mmol | C(C1=CC=CC=C1)OC(=O)NC(C(C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)O)CC1=CC=CC=C1 | C26H31N3O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
catalyst | palladium on charcoal | [Pd] | Pd
product | (S,S)-1-[N-(3-Amino-2-hydroxy-1-oxo-4-phenyl-butyl)-L-alanyl]-L-proline | 0.65 g | NC(C(C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)O)CC1=CC=CC=C1 | C18H25N3O5
